US06562823B1
Step A: Preparation of 2-Benzyloxy-5-hydroxybenzaldehyde
To a solution of 2,5-dihydroxybenzaldehyde (10.41 g, 75.4 mmol) in 100 mL of DMF was added lithium carbonate (16.71 g, 226 mmol), followed by benzyl bromide (13.5 mL, 113 mmol). The solution was warmed to 60° C. and stirred for 30 hours. The reaction was poured into EtOAc and washed with water, saturated NaHCO3 solution and brine, dried (Na2SO4), filtered, and concentrated in vacuo. The product was isolated as a brown oil which was used without further purification.

reactant | 2,5-dihydroxybenzaldehyde | 75.4 mmol, 10.41 g | OC1=C(C=O)C=C(C=C1)O | C7H6O3
reactant | lithium carbonate | 226 mmol, 16.71 g | C([O-])([O-])=O.[Li+].[Li+]
reactant | benzyl bromide | 113 mmol, 13.5 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-Benzyloxy-5-hydroxybenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1)O | C14H12O3
